Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, weight loss
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M with pmhx of significant alcohol use presenting with 2
months of early satiety, abdominal pain, intermittent vomiting,
and ___ days of acutely worsening abdominal pain and decreased 
PO
intake. 

Patient states that he has a hx of drinking ___ pint - 1 pint of
hard liquor daily for >10 days until ___ of this year. In
___, he developed nausea and vomiting with alcohol intake,
poor appetite, and intermittent sharp epigastric pains. He 
states
that these symptoms have worsened over the last two months and
have been associated with approximately ___ of weight loss.
He states that in the four days prior to admission, he has only
been able to tolerate crackers, bland cereal. He has anorexia 
and
nausea; last episode of vomiting was 4 days prior to admission.
No hematemesis. The patient additionally has sharp, non 
radiating
epigastric pains which last ~5 seconds, occur every two hours or
so, as well as occasional RLQ pains. 

On ROS, patient endorses constipation (normal for him is 1
BM/day, has been decreased to ___ days), denies any melena, or
hematochezia. No fever, chills, night sweats, chest pain,
shortness of breath. Denies dysuria but states that his urine 
has
been dark brown. Denies skin changes, but per girlfriend sclera
are jaundiced compared to baseline. 

In the ED:
- Initial vital signs were notable for: T 97, HR 80, BP 156/105,
RR 18, O2 sat 100% RA 
- Exam notable for: RLQ tenderness 
- Labs were notable for: BMP wnl (Cr 1.2), AST 16, ALT 14, AP 
72,
LDH 157, Lipase 264, Tbili 2.2, Dbili 0.3, Alb 4.7, WBC 5.3, Hgb
15.6, Plt 232. 
- Studies performed include: RUQ U/S, CT A/P
- Patient was given: LR 150cc/hr

Vitals on transfer:  T 98.6, HR 61, BP 108/74, RR 16, 100% RA

Upon arrival to the floor, patient endorses history above. 

REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise
negative.

 
Past Medical History:
None
- hx of thyroid cyst surgery ___ years prior 

 
Social History:
___
Family History:
reviewed, not pertinent to current admission 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: 24 HR Data (last updated ___ @ 1214)
    Temp: 98.4 (Tm 98.4), BP: 95/66, HR: 56, RR: 18, O2 sat: 
99%,
O2 delivery: RA, Wt: 142.9 lb/64.82 kg  
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI, mild resting abduction of R eye from
midline. Sclera icteric. MMM. 
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowel sounds, non distended, tender to palpation
in RLQ. Mild epigastric tenderness. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE PHYSICAL EXAM:
VITALS: 24 HR Data (last updated ___ @ 2331)
    Temp: 98.9 (Tm 98.9), BP: 121/79 (114-124/72-80), HR: 68
(61-68), RR: 20 (___), O2 sat: 99% (98-100), O2 delivery: RA  
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI, mild resting abduction of R eye from
midline. Sclera no longer icteric. MMM. 
NECK: No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowel sounds, non distended, mild epigastric and
R sided tenderness. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.
 
Pertinent Results:
ADMISSION LABS
===============
___ 12:30AM BLOOD WBC-5.3 RBC-4.97 Hgb-15.6 Hct-42.7 MCV-86 
MCH-31.4 MCHC-36.5 RDW-13.0 RDWSD-40.1 Plt ___
___ 06:05AM BLOOD ___ PTT-31.7 ___
___ 12:30AM BLOOD Glucose-99 UreaN-17 Creat-1.2 Na-137 
K-4.1 Cl-100 HCO3-25 AnGap-12
___ 12:30AM BLOOD ALT-14 AST-16 LD(LDH)-157 AlkPhos-72 
TotBili-2.2* DirBili-0.3 IndBili-1.9
___ 12:30AM BLOOD Lipase-264*
___ 12:30AM BLOOD Albumin-4.7

DISCHARGE LABS
===============
___ 10:10AM BLOOD WBC-3.7* RBC-4.58* Hgb-14.4 Hct-38.5* 
MCV-84 MCH-31.4 MCHC-37.4* RDW-12.6 RDWSD-37.8 Plt ___
___ 05:30AM BLOOD ___ PTT-32.0 ___
___ 05:30AM BLOOD Glucose-100 UreaN-12 Creat-1.2 Na-141 
K-3.8 Cl-106 HCO3-24 AnGap-11
___ 05:30AM BLOOD ALT-12 AST-13 AlkPhos-64 TotBili-1.9*
___ 05:30AM BLOOD Calcium-9.4 Phos-3.3 Mg-1.9

IMAGING/STUDIES
================
___ CT A/P 
1. Dilated main pancreatic duct throughout the course of the
pancreas measuring up to 8 mm in the head and 5 mm in the tail.
Numerous cystic appearing foci with associated calcifications 
are
noted in the uncinate process. This finding may represent the
sequelae of chronic pancreatitis however an underlying neoplasm
is not excluded and further evaluation with
MRCP is recommended.
2. Possibly thickened gallbladder wall along the extrahepatic
aspect, however a portion of this finding may actually represent
adjacent compressed duodenal wall. No stones are identified. In
addition, there is confluent, cystic and soft tissue density
material extending inferiorly and posteriorly from the
gallbladder fossa of indeterminate etiology. This finding can be
evaluated at time of MRCP.
3. Scattered hepatic hypodensities are incompletely evaluated on
the current exam as described above.

___ RUQ U/S
1. Apparently thickened gallbladder wall may in part be related
to adjacent duodenum or the indeterminate soft tissue density
seen in the right upper quadrant on CT. No stones identified. No
sonographic ___ sign. Further evaluation at the time of MRCP
is recommended.
2. 1.2 cm hyperechoic avascular lesion in the left hepatic lobe,
possibly a hemangioma, incompletely evaluated on the current
study.
3. No intrahepatic biliary dilatation. Common bile duct measures
3 mm.
4. Pancreas is obscured by bowel gas.

MRCP ___ reviewed in ___
IMPRESSION:  
1.  Large thin-walled cystic structure within or adjacent to the
right lateral 
descending duodenal wall, compressing the descending duodenum. 
This shows no 
solid enhancing components, only thin uniform peripheral
enhancement along the 
lateral side, although medial wall is somewhat difficult to
assess.  
Likelihood of neoplastic disease is low, although follow-up
imaging 
surveillance may be appropriate.  Differential diagnosis 
includes
either a 
pseudocyst or duodenal duplication cyst with suspicion for
superimposed 
hemorrhage and inflammation or infection.  Cystic dystrophy of
the duodenal 
wall could also be considered and the possibility of obstructed
accessory 
pancreatic tissue may be supported by a tubular excrescence
arising from mid 
anterior part of the lesion. 
  
2.  Findings consistent with severe chronic pancreatitis.  This
may explain 
marked dilatation of the main pancreatic duct and numerous sided
branches.  
Possibility of main side-branch intraductal papillary mucinous
neoplasm is not 
entirely excluded, however.  Pancreas divisum.  No 
Santorinicele.

 
Brief Hospital Course:
PATIENT SUMMARY
================
___ M with no past medical hx apart from excess alcohol use (1 
pint per day for > ___ years) who presents with two months of 
abdominal pain, nausea, early satiety, ___ weight loss, 
found to have elevated lipase and imaging with severe chronic 
pancreatitis as well as partially walled off cyst compressing 
the duodenum.

TRANSITIONAL ISSUES
[] please continue to encourage smoking cessation, alcohol 
abstinence. Patient discharged with nicotine lozenges and 
patches.
[] please evaluate PO intake, if patient unable to tolerate 
sufficient PO may need NJ tube until cyst resolves/is drained
[] should follow up with GI ___ weeks post discharge

ACUTE ISSUES ADDRESSED
=======================
# Abdominal pain, early satiety
# Pancreatic duct dilation
Patient presented with signs/symptoms concerning for chronic 
pancreatitis, confirmed on MRCP. Pt at risk for recurrent 
episodes of acute pancreatitis given significant alcohol use hx. 
Was additionally found to have cyst near duodenum which is 
compressing portion of duodenum. Unclear if it is pseudocyst vs 
duodenual duplication cyst, but low suspicion for malignancy or 
infection. Patient was seen by advanced endoscopy team who 
recommended outpatient follow up, with NJ tube placement if 
patient unable to tolerate PO. While admitted, patient was 
tolerating regular diet and was discharged with instructions to 
return if he is unable to tolerate adequate PO. Patient did not 
require any pain or anti-emetic medications.

#Tobacco use disorder
#Alcohol use disorder
Patient was supplied with Nicotine patch 21mg, nicotine 
lozenges. We discussed the importance of alcohol cessation, 
smoking cessation in the setting of chronic pancreatitis. Plan 
for PCP follow up 1 week post discharge to help continue these 
goals.

CORE MEASURES
=============
#CODE: Full Code
#CONTACT: Girlfriend ___ ___
 
___ on Admission:
None
 
Discharge Medications:
1.  Nicotine Lozenge 2 mg PO Q2H:PRN tobacco cravings 
RX *nicotine (polacrilex) [Nicorette] 2 mg Take for nicotine 
cravings Every 2 hours as needed Disp #*81 Lozenge Refills:*0 
2.  Nicotine Patch 21 mg/day TD DAILY 
Continue this dose for 6 weeks. See your primary care doctor for 
the next dose.  
RX *nicotine 21 mg/24 hour apply patch Once Daily Disp #*28 
Patch Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
==================
Chronic Pancreatitis 

SECONDARY DIAGNOSES
===================
Alcohol use disorder
Tobacco use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
 
It was a pleasure caring for you at ___ 
___.  
 
WHY WAS I IN THE HOSPITAL?  
 - You were admitted for abdominal pain, weight loss, and nausea
 
WHAT HAPPENED TO ME IN THE HOSPITAL?  
 - While you were in the hospital, we found that you have a 
condition called chronic pancreatitis, likely because of heavy 
alcohol use

 - We also found that you have a cyst that is compressing part 
of your intestines. At this time the cyst is not amenable to 
drainage, but you should follow up with our gastroenterologists 
as an outpatient to see if there is any change and whether it 
would require drainage.
 
WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
 - Continue to take all your medicines and keep your 
appointments.  

 - If you notice you can't tolerate food and are having a lot of 
nausea or vomiting, you may potentially need a feeding tube 
until the cyst can be drained/until it resolves. You will need 
to either come to the ED or call you GI doctor to discuss this 
further.
 
We wish you the best!  
 
Sincerely,  
Your ___ Team  
 
Followup Instructions:
___